US04017505
1-Cycloundecylmethoxycarbonyl-2-(4-thiazolyl)-benzimidazole
20.3 G. (0.082 moles) of cycloundecylmethyl chloroformate is added dropwise at room temperature to 16.4 g. (0.082 moles) of 2-(4-thiazolyl)-benzimidazole suspended in 200 ml. of pyridine. The temperature rises spontaneously to 35° C and the reaction mixture is then stirred overnight at room temperature, filtered and the filtrate evaporated to dryness in vacuo. The residue is treated with methylene chloride and washed 3 times with 2.5N hydrochloric acid and twice with water. The methylene chloride is treated with charcoal, filtered and evaporated to dryness in vacuo affording 25 g. of an oil which solidifies on standing and is recrystallized from hexane affording 20 g. of 1-cycloundecylmethoxycarbonyl-2-(4-thiazolyl)-benzimidazole, melting point 86° to 87° C.

reactant | cycloundecylmethyl chloroformate | 0.082 moles | ClC(=O)OCC1CCCCCCCCCC1 | C13H23ClO2
reactant | 2-(4-thiazolyl)-benzimidazole | 0.082 moles | S1C=NC(=C1)C=1NC2=C(N1)C=CC=C2 | C10H7N3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Cycloundecylmethoxycarbonyl-2-(4-thiazolyl)-benzimidazole | C1(CCCCCCCCCC1)COC(=O)N1C(=NC2=C1C=CC=C2)C=2N=CSC2 | C23H29N3O2S
